US04307233
2-Carboxy-7-tert.-butoxycarbonylamino-3-methylene-8-oxo-5-thia-1-aza-bicyclo[4.2.0]octane (21.3 g) is esterified with diphenyldiazomethane (11.2 g) in accordance with the procedure of Example 1. 2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methylene-8-oxo-5-thia-1-aza-bicyclo[4.2.0]octane (18.35 g) is obtained in the form of white crystals (m.p.=135°-7° C. after recrystallisation from ethyl acetate).

reactant | 2-Carboxy-7-tert.-butoxycarbonylamino-3-methylene-8-oxo-5-thia-1-aza-bicyclo[4.2.0]octane | 21.3 g | C(=O)(O)C1N2C(C(C2SCC1=C)NC(=O)OC(C)(C)C)=O | C13H18N2O5S
reactant | diphenyldiazomethane | 11.2 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methylene-8-oxo-5-thia-1-aza-bicyclo[4.2.0]octane | 18.35 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1N2C(C(C2SCC1=C)NC(=O)OC(C)(C)C)=O | C26H28N2O5S
